US07763731B2
Methyl 4-(4-chloro-2-nitrophenoxy)benzoate
A mixture of 1,4-dichloro-2-nitrobenzene (20.0 g, 104.2 mmol) and methyl 4-hydroxybenzoate (15.85 g, 104.2 mmol) in 150 mL of EtOH was treated with Na2CO3 and heated overnight under reflux. Cooled to room temperature and quenched with water. Extracted with EtOAc. Dried over MgSO4, filtered and concentrated under vacuum giving the title compound, which was purified by silica gel column chromatography eluting with 10% EtOAc/hexane giving the title compound as a yellow solid (29.6 g, 92%).

reactant | 1,4-dichloro-2-nitrobenzene | 104.2 mmol, 20.0 g | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | methyl 4-hydroxybenzoate | 104.2 mmol, 15.85 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 150 mL | CCO | C2H6O
product | Methyl 4-(4-chloro-2-nitrophenoxy)benzoate | ClC1=CC(=C(OC2=CC=C(C(=O)OC)C=C2)C=C1)[N+](=O)[O-] | C14H10ClNO5
